Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amiodarone / Protamine / piperacillin
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
___ Placement of BiV pacemaker

 
History of Present Illness:
This is a ___ year old man with PMH most significant for atrial
flutter and atrial arrhythmia s/p CTI line and PVI, DCCV, HFrEF
thought to be tachyarrythmia induced, MGUS, CKS, PAD, and recent
pseudomonas osteomyelitis complicated by fungemia who presents 
to
the ED with lower extremity weakness. 

Mr ___ reports that he was  non-weightbearing at rehab for an
extended period of time and has felt very weak in his legs after
returning home 1.5 weeks ago. He reports falling down frequently
a few days prior to admission. He denies headstrike or syncope,
bu has a generalized sense of weakness. He attributes these 
falls
to weak legs as he was able to lower himself to the ground.
 
Past Medical History:
AFib/ATach s/p flutter ablation and PVI with persistent atrial
tachycardia  
 CHF  
 HLD  
 HTN  
 OSA on CPAP  
 Gout  
 T2DM  
 GERD  
 CKD  
 Anemia 
 MGUS 
 Acute interstitial nephritis on zosyn
 R foot osteomyelitis x2

 
Social History:
___
Family History:
Family history is notable for dementia in his father with onset
in his ___. His father also had a myocardial infarction and
stroke. His mother had borderline diabetes. A brother had
substance abuse problems in the past.
 
Physical Exam:
Admission:
VS: 97.4 (Tm 97.4), BP: 137/82, HR: 104, RR: 20, O2 sat: 100%, 
O2
delivery: RA 
GENERAL: Well developed, well nourished man in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP elevated
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. Crackles to the mid lung
fields bilaterally.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: 2+ edema to the sacrum. RLE with chronic, dry, 
wound
over the lateral aspect of the R foot. 
SKIN: No significant skin lesions or rashes.

Discharge:
VS: Temp: 97.2 (Tm 98.3), BP: 122/84 (116-133/69-90), HR: 89
(88-90), RR: 17 (___), O2 sat: 100% (98-100), O2 delivery: ra 

GENERAL: Well developed, well nourished man in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. no JVD
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. No swelling or
chest wall outpouching enlargement near pacemaker site.
Respiration is unlabored with no accessory muscle use. No
crackles.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: RLE with chronic, dry, wound over the lateral 
aspect
of the R foot. ___ edema in the foot. 
SKIN: No significant skin lesions or rashes.   
 
Pertinent Results:
Admission:
___ 02:22PM BLOOD WBC-7.0 RBC-3.81* Hgb-11.0* Hct-36.3* 
MCV-95 MCH-28.9 MCHC-30.3* RDW-17.2* RDWSD-59.7* Plt ___
___ 02:22PM BLOOD Neuts-71.4* Lymphs-10.9* Monos-13.2* 
Eos-2.4 Baso-1.0 Im ___ AbsNeut-5.02 AbsLymp-0.77* 
AbsMono-0.93* AbsEos-0.17 AbsBaso-0.07
___ 02:22PM BLOOD Glucose-248* UreaN-43* Creat-2.5* Na-138 
K-5.5* Cl-106 HCO3-20* AnGap-12
___ 02:22PM BLOOD Calcium-8.7 Phos-2.9 Mg-1.7

CXR ___:
Lungs are low volume with bibasilar atelectasis.  Bilateral 
effusions are
unchanged.  Cardiomediastinal silhouette is stable.  Left-sided 
pacemaker is
also unchanged.  No pneumothorax is seen.

Discharge:
___ 07:00AM BLOOD WBC-6.8 RBC-3.16* Hgb-9.0* Hct-30.1* 
MCV-95 MCH-28.5 MCHC-29.9* RDW-15.9* RDWSD-55.8* Plt ___
___ 07:00AM BLOOD Glucose-101* UreaN-32* Creat-2.3* Na-143 
K-4.4 Cl-104 HCO3-26 AnGap-13
 
Brief Hospital Course:
TRANSITIONAL ISSUES
======================
[] Would recommend close monitoring of heart rate and titration 
of beta blocker as needed. He is near the maximum dose of 
metoprolol, so if atrial tachycardia reoccurs, could consider 
diltiazem as he responded well to that when briefly on this as 
an inpatient (however would avoid if possible given systolic 
heart failure).

[] Please monitor volume exam and adjust diuretic dose as 
needed.

[] The patient has had recent falls at home. ___ evaluation here 
noted unstable gait and falls risk; recommended discharge to 
rehabilitation, but the patient refused. He was deemed to have 
capacity to make such a decision, so patient was discharged 
home. Please continue to assess falls risk, continue discussions 
with patient regarding safety at home.

[] INR subtherapeutic on day of discharge. According to his 
pharmacy, his home dose is 5mg per day. We administerd 7.5mg on 
day of discharge (___) with instructions to take 5mg per day 
thereafter. Please monitor INR and dose warfarin accordingly.

SUMMARY
=========
Mr. ___ is a ___ year old man with PMH most significant for 
atrial
flutter and atrial arrhythmia s/p CTI line and PVI, DCCV, HFrEF
thought to be tachyarrythmia induced, MGUS, CKS, PAD, and recent
pseudomonas osteomyelitis complicated by fungemia who presented 
with lower extremity weakness and falls. This was felt to be 
secondary to atrial tachycardia with frequent pauses. A 
biventricular pacemaker was placed and rate control agents 
titrated. He was also slightly fluid overloaded, so the patient 
was diuresed to euvolemic.

ACUTE ISSUES
==============
# Symptomatic pauses s/p BiV PPM
# Atrial tachycardia
The patient has a history of afib/flutter with RVR, s/p prior 
ablations. He presented with weakness and telemetry monitoring 
was revealing for alternating atrial tachycardia and sinus 
rhythm with symptomatic conversion pauses. A biventricular 
pacemaker was placed on ___. He was continued on warfarin 
per his outpatient cardiologist, Dr. ___. Rate control 
medications were titrated and the patient was ultimately 
discharged on his prior metoprolol succinate dose of 200mg BID. 
Of note, telemetry showed that he was in NSR for several days 
prior to discharge.

# Acute on chronic systolic and diastolic heart failure 
Prior echocardiography with EF 21%, mild-mod MR, and mild TR. 
The patient presented with mild volume overload as evidenced by 
___ edema in ___, elevated JVP, and crackles over the lung 
fields, as well as 4 kg above his previous discharge weight. He 
was diuresed down ___ with improvement of his physical exam. 
The patient was discharged on 40mg PO Lasix (increased from 
prior home dose of 10mg daily), metoprolol as discussed above, 
as well as home hyrdralazine and Isordil.

# Anemia 
Patient with documented hypoproliferative anemia and MGUS. 
Previously requiring blood transfusions during last admission. 
H/H this admission slightly lower than baseline but overall 
stable. Labs were consistent with mixed picture of mildly 
hypoproliferative marrow, anemia of chronic disease, and iron 
deficiency, without any signs of hemolysis. Hbg was 9.0 on day 
of discharge.

CHRONIC ISSUES
====================
# CAD
There was no ischemia noted on a recent nuclear stress test 
___, although there was akinesis of the basal inferoseptum, 
basal-mid inferior and inferolateral walls on a ___ TTE. 
The patient was continued on home pravastatin 40mg and ASA 81mg.

# Stage 4 CKD
Baseline Cr 2.5. Chemistries and renal function were trended 
throughout admission. The patient was continued on home sodium 
bicarbonate 650 mg BID.

# PAD
S/p R AT angioplasty on ___. Per chart review, vascular 
surgery recommended post-op clopidogrel for one month 
post-operatively, but clopidogrel has been continued without 
clear indication. Per the patient's outpatient cardiologist, 
Plavix was discontinued.

# IDDM 
The patient was continued on long acting glargine, prandial 
insulin, and an insulin sliding scale. 

# BPH
The patient was continued on home finasteride and tamsulosin.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO EVERY OTHER DAY 
2. Finasteride 5 mg PO DAILY 
3. Furosemide 10 mg PO DAILY 
4. Metoprolol Succinate XL 200 mg PO BID 
5. Multivitamins W/minerals 1 TAB PO DAILY 
6. Pantoprazole 40 mg PO Q12H 
7. Pravastatin 40 mg PO QPM 
8. Sodium Bicarbonate 650 mg PO BID 
9. Tamsulosin 0.4 mg PO QHS 
10. Vitamin D 1000 UNIT PO DAILY 
11. Warfarin 3.75-5 mg PO DAILY16 
12. Isosorbide Dinitrate 20 mg PO TID 
13. Glargine 9 Units Breakfast
Humalog 4 Units Breakfast
Humalog 4 Units Lunch
Humalog 4 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
14. Diltiazem 60 mg PO Q12H 
15. HydrALAZINE 25 mg PO TID 
16. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
1.  Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Glargine 9 Units Breakfast
Humalog 4 Units Breakfast
Humalog 4 Units Lunch
Humalog 4 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
3.  ___  MD to order daily dose PO DAILY16 
5mg daily, titrate per INR  
4.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB  
5.  Ferrous Sulfate 325 mg PO EVERY OTHER DAY  
6.  Finasteride 5 mg PO DAILY  
7.  HydrALAZINE 25 mg PO Q8H  
8.  Isosorbide Dinitrate 20 mg PO TID  
9.  Metoprolol Succinate XL 200 mg PO BID  
10.  Multivitamins W/minerals 1 TAB PO DAILY  
11.  Pantoprazole 40 mg PO Q12H  
12.  Pravastatin 40 mg PO QPM  
13.  Sodium Bicarbonate 650 mg PO BID  
14.  Tamsulosin 0.4 mg PO QHS  
15.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Intermittent atrial tachycardia with symptomatic conversion 
pauses
Acute on chronic systolic and diastolic heart failure 
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because your legs were weak 
and you were having a hard time maintaining your balance at 
home.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- We found that your heart is sometimes in an irregular rhythm. 
We implanted a pacemaker that can help the heart to beat 
properly.
- We adjusted your cardiac medications to help control your 
heart rate and keep you from gaining extra fluid in your body.

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 

We wish you the best!
Your ___ Care Team 

 
Followup Instructions:
___